US05059340
Sodium (57.5 g, 2.5 mols) was added to ethanol (1 l) to prepare sodium methoxide, followed by adding (S)-2-methylbutyl bromide (317 g, 2.1 mols) and diethyl malonate 400 g, 2.5 mols), refluxing the mixture for 5 hours and distilling off ethanol to obtain oily diethyl (S)-2-methylbutylmalonate.

reactant | Sodium | 2.5 mols, 57.5 g | [Na] | Na
reactant | sodium methoxide | C[O-].[Na+]
reactant | (S)-2-methylbutyl bromide | 2.1 mols, 317 g | C[C@H](CBr)CC | C5H11Br
reactant | diethyl malonate | 2.5 mols, 400 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ethanol | 1 l | C(C)O | C2H6O
product | diethyl (S)-2-methylbutylmalonate | C[C@H](CC(C(=O)OCC)C(=O)OCC)CC | C12H22O4
